US07622583B2
5-Chloro-3-[methoxymethyl-(4-chloro-3-trifluoromethyl-benzenesulfonyl)-amino]-pyridine-2-carboxylic acid methoxy-methyl-amide
To a suspension of sodium hydride (314 mg, 7.86 mmol) in 8 mL of THF was added a mixture of 5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carboxylic acid methoxy-methyl-amide (3.0 g, 6.55 mmol) and chloromethyl methyl ether (0.741 mL, 9.825 mmol) in 8 mL of THF. The mixture was stirred at room temperature overnight. After the removal of the solvents the residue was purified by flash column (20% ethyl acetate in hexane) to afford 2.70 grams of the title compound as a white solid. (M+H)+ expect 502.0, found 502.0.

reactant | sodium hydride | 7.86 mmol, 314 mg | [H-].[Na+]
reactant | 5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carboxylic acid methoxy-methyl-amide | 6.55 mmol, 3.0 g | CON(C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl)C | C15H12Cl2F3N3O4S
reactant | chloromethyl methyl ether | 9.825 mmol, 0.741 mL | COCCl | C2H5ClO
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 5-Chloro-3-[methoxymethyl-(4-chloro-3-trifluoromethyl-benzenesulfonyl)-amino]-pyridine-2-carboxylic acid methoxy-methyl-amide | 2.70 grams | CON(C(=O)C1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)Cl)C | C17H16Cl2F3N3O5S
